US06855710B2
(Z)-3-[1-(4-dimethylaminocarbonyl-phenylamino)-1-phenyl-me-thylidene]-2-indolinone
285 mg (0.8 mmol) of (Z)-3-[1-(4-carboxyphenylamino)-1-phenyl-methylidene]-2-indolinone and 330 mg (4 mmol) of dimethylamine-hydrochloride are dissolved in 8 ml of DMF and after the addition of 385 mg (1.2 mmol) of TBTU, 184 mg (1.2 mmol) of HOBt and 1.03 g (8 mmol) of N-ethyl-N,N-diisopropylamine, the mixture is stirred for 14 hours at ambient temperature. The solution is diluted with water, the product precipitated is suction filtered, washed with water and ethanol and dried.

reactant | (Z)-3-[1-(4-carboxyphenylamino)-1-phenyl-methylidene]-2-indolinone | 0.8 mmol, 285 mg | C(=O)(O)C1=CC=C(C=C1)N\C(\C1=CC=CC=C1)=C\1/C(NC2=CC=CC=C12)=O | C22H16N2O3
reactant | dimethylamine-hydrochloride | 4 mmol, 330 mg | Cl.CNC
reactant | TBTU | 1.2 mmol, 385 mg | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=C2)N=N1.[B-](F)(F)(F)F
reactant | HOBt | 1.2 mmol, 184 mg | C=1C=CC2=C(C1)N=NN2O | C6H5N3O
reactant | N-ethyl-N,N-diisopropylamine | 8 mmol, 1.03 g | C(C)N(C(C)C)C(C)C | C8H19N
solvent | DMF | 8 ml | CN(C)C=O | C3H7NO
solvent | water | O | H2O
product | (Z)-3-[1-(4-dimethylaminocarbonyl-phenylamino)-1-phenyl-me-thylidene]-2-indolinone | CN(C(=O)C1=CC=C(C=C1)N\C(\C1=CC=CC=C1)=C\1/C(NC2=CC=CC=C12)=O)C | C24H21N3O2
